US09169254B2
{4-[2-(2-Hex-5-enyl-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl)-ethyl]-3,5-dimethyl-phenyl}-methyl-carbamic acid tert-butyl ester (820 mg, 1.46 mmol) was dissolved in methylene chloride (16 ml). Trifluoroacetic acid (10 ml) was added and the mixture was stirred at room temperature for two hours. The reaction solution was concentrated, and a saturated aqueous sodium bicarbonate solution was added to the residue. This mixture was extracted with methylene chloride. The organic layer was dried over anhydrous sodium sulfate and then concentrated under reduced pressure to give 8-[2-(2,6-dimethyl-4-methylamino-phenyl)-ethanesulfonyl]-2-hex-5-enyl-1,3,8-triaza-spiro[4.5]dec-1-en-4-one (686 mg) as a crude compound.

reactant | {4-[2-(2-Hex-5-enyl-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl)-ethyl]-3,5-dimethyl-phenyl}-methyl-carbamic acid tert-butyl ester | 1.46 mmol, 820 mg | C(C)(C)(C)OC(N(C)C1=CC(=C(C(=C1)C)CCS(=O)(=O)N1CCC2(C(NC(=N2)CCCCC=C)=O)CC1)C)=O | C29H44N4O5S
reactant | Trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 16 ml | C(Cl)Cl | CH2Cl2
product | 8-[2-(2,6-dimethyl-4-methylamino-phenyl)-ethanesulfonyl]-2-hex-5-enyl-1,3,8-triaza-spiro[4.5]dec-1-en-4-one | 686 mg | CC1=C(C(=CC(=C1)NC)C)CCS(=O)(=O)N1CCC2(C(NC(=N2)CCCCC=C)=O)CC1 | C24H36N4O3S
